US05128356
2-Butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-cyanomethylbenzimidazole
A mixture of 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-chloromethylbenzimidazole (0.83 g) and sodium cyanide (0.12 g) in DMF (10 ml) was stirred for 22 hours at room temperature. To the reaction mixture was added water and this mixture was extracted with ethyl acetate. The organic layer was washed with water and dried. The solvent was distilled off, and the residue was crystallized from ethyl acetate to givecolorless prisms (0.76 g, 94%), m.p. 180°-181° C.

reactant | 2-butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-chloromethylbenzimidazole | 0.83 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)CCl | C26H24ClN3
reactant | sodium cyanide | 0.12 g | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-Butyl-1-[(2'-cyanobiphenyl-4-yl)methyl]-7-cyanomethylbenzimidazole | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C(=CC=C2)CC#N | C27H24N4
